US06576656B1
(1) 1-(2-Diethylaminoethyl)-3-hydroxy-3-(2-chlorophenyl)-4-bromo-6-cyanooxindole
To Pd2(dba)3CHCl3 (60.1 mg, 5 mol %) and PPh3 (60.9 mg, 20 mol %) under a nitrogen atmosphere was added anhydrous DMF (0.5 mL). The resulting precipitate was stirred at room temperature for 30 minutes during which time the colour changed from red to yellow/orange. To this was added 1-(2-diethylaminoethyl)-3-hydroxy-3-(2-chlorophenyl)-4-bromo-6-iodooxindole (626.4 mg, 1.16 mmol) dissolved in anhydrous DMF (1.0 mL). To the resulting red solution was then added Zn(CN)2. The resulting precipitate was then heated to 60° C. (bath temperature) and stirring was continued at that temperature for 4 hours. The mixture was allowed to cool to room temperature and diluted with EtOAc:toluene (1:1, 10 mL). The mixture was washed with H2O (6 mL). The aqueous phase was then extracted with EtOAc:toluene (1:1, 5 mL×5). The organic phases were combined and dried (anhydrous MgSO4). After filtration the solvent was removed in vacuo. The orange solid obtained was then purified by flash chromatography (silica gel, eluting 1% to 2% to 3%MeOH in CHCl3) to give the title compound as a light brown/orange solid (462.6 mg, 91%).

reactant | PPh3 | 60.9 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 1-(2-diethylaminoethyl)-3-hydroxy-3-(2-chlorophenyl)-4-bromo-6-iodooxindole | 1.16 mmol, 626.4 mg | C(C)N(CCN1C(C(C2=C(C=C(C=C12)I)Br)(C1=C(C=CC=C1)Cl)O)=O)CC | C20H21BrClIN2O2
reactant | DMF | 1.0 mL | CN(C)C=O | C3H7NO
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc toluene | 10 mL | CCOC(=O)C.C1(=CC=CC=C1)C
catalyst | Zn(CN)2 | [C-]#N.[C-]#N.[Zn+2]
product | 1-(2-Diethylaminoethyl)-3-hydroxy-3-(2-chlorophenyl)-4-bromo-6-cyanooxindole | 462.6 mg, 91% | C(C)N(CCN1C(C(C2=C(C=C(C=C12)C#N)Br)(C1=C(C=CC=C1)Cl)O)=O)CC | C21H21BrClN3O2
